US07402674B2
b) 2,4-Dichloro-5-(2-chloro-4,6-difluorophenylamino)benzoic acid
120 mg (0.31 mmol) of ethyl 2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino)benzoate were suspended in 6 ml of an ethanol/2 N sodium hydroxide solution mixture (1:1) and heated at 90° C. for 3 hours. After cooling to room temperature, the pH was adjusted to 2 with 2 N sulfuric acid, and the precipitate was filtered off with suction. 98 mg (88%) of the product were obtained.

reactant | ethyl 2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino)benzoate | 0.31 mmol, 120 mg | ClC1=C(C(=O)OCC)C=C(C(=C1)Cl)NC1=C(C=C(C=C1F)F)Cl | C15H10Cl3F2NO2
reactant | sulfuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 2 N, 6 ml | C(C)O | C2H6O
product | 2,4-Dichloro-5-(2-chloro-4,6-difluorophenylamino)benzoic acid | 98 mg, 88% | ClC1=C(C(=O)O)C=C(C(=C1)Cl)NC1=C(C=C(C=C1F)F)Cl | C13H6Cl3F2NO2
